US07618975B2
(4-Methoxy-phenyl)-(2-methyl-pteridin-4-yl)-methyl-amine
4-Chloro-2-methyl-pteridine. A mixture of 6-chloro-2-methyl-pyrimidine-4,5-diamine (37 mg, 0.233 mmol) and 1,4-dioxane-2,3-diol (32 mg, 0.266 mmol) in 0.8 mL of absolute ethanol was stirred at room temperature for 2 h. The reaction mixture was evaporated to dryness and the residue was purified by column chromatography (50% ethyl acetate/hexane) to give the title compound (41 mg, 0.227 mmol, 97%). 1H NMR (CDCl3): 9.24 (d, J=1.8, 1H), 9.05 (d, J=1.5, 1H), 2.99 (s, 3H).

reactant | 4-Chloro-2-methyl-pteridine | ClC1=NC(=NC2=NC=CN=C12)C | C7H5ClN4
reactant | 6-chloro-2-methyl-pyrimidine-4,5-diamine | 0.233 mmol, 37 mg | ClC1=C(C(=NC(=N1)C)N)N | C5H7ClN4
reactant | 1,4-dioxane-2,3-diol | 0.266 mmol, 32 mg | O1C(C(OCC1)O)O | C4H8O4
reactant | ethanol | 0.8 mL | C(C)O | C2H6O
product | (4-Methoxy-phenyl)-(2-methyl-pteridin-4-yl)-methyl-amine | 0.227 mmol, 41 mg, 97% | COC1=CC=C(C=C1)N(C)C1=NC(=NC2=NC=CN=C12)C | C15H15N5O
